US09062092B2
Compound 99e. (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester
A solution of [(R)-1-(7-bromo-quinolin-2-yl)-ethyl]-carbamic acid tert-butyl ester (105 mg, 0.3 mmol), 2,2-bis-fluoromethyl-but-3-enoic acid (50 mg, 0.33 mmol), tri(o-tolyl)phosphine (18 mg, 0.06 mmol) and triethylamine (91 mg, 0.13 mL, 0.9 mmol) in 1,4-dioxane (3 mL) was degassed with nitrogen for 15 min. Tris(dibenzylideneacetone)dipalladium(0) (28 mg, 0.03 mmol) was added and the reaction mixture was heated to 60° C. for 1 h. The reaction mixture was cooled to room temperature and the mixture was filtered through a hydrophobic frit and the filtrate was evaporated to afford crude (E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoic acid (0.3 mmol) as a yellow gum. LCMS (m/z) 421.1 [M+H], Tr=2.27 min. A solution of crude (E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoic acid (0.3 mmol), N,N-diisopropylethylamine (96 mg, 0.13 mL, 0.75 mmol), 4-(dimethylamino)-pyridine (73 mg, 0.6 mmol) and 2-methyl-6-nitrobenzoic anhydride (193 mg, 0.56 mmol) in anhydrous dichloromethane (5 mL) was stirred at 0° C. under nitrogen. A solution of (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester (142 mg, 0.33 mmol) in dichloromethane (2 mL) was added and the reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 18 h. The reaction mixture was diluted with dichloromethane and the solution was washed with ice-cold saturated sodium hydrogen carbonate solution, water, ice-cold hydrochloric acid (1 M), water and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of iso-hexanes/ethyl acetate 2:1 to 0:1 to afford the partially purified title compound (26 mg, 10%) as a yellow gum. LCMS (m/z) 834.3, 836.2 [M+H], Tr=3.39 min.

reactant | (E)-4-[2-((R)-1-tert-butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoic acid | 0.3 mmol | C(C)(C)(C)OC(=O)N[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/C(C(=O)O)(CF)CF | C22H26F2N2O4
reactant | N,N-diisopropylethylamine | 0.75 mmol, 0.13 mL, 96 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methyl-6-nitrobenzoic anhydride | 0.56 mmol, 193 mg | CC1=C(C(=O)OC(C2=C(C=CC=C2[N+](=O)[O-])C)=O)C(=CC=C1)[N+](=O)[O-] | C16H12N2O7
reactant | (S)-1-[(S)-2-((S)-2-hydroxy-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | 0.33 mmol, 142 mg | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)O)=O)=O)(Cl)Cl | C15H24Cl3N3O5
catalyst | 4-(dimethylamino)-pyridine | 0.6 mmol, 73 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (S)-1-[(S)-2-((S)-2-{(E)-4-[2-((R)-1-tert-Butoxycarbonylamino-ethyl)-quinolin-7-yl]-2,2-bis-fluoromethyl-but-3-enoyloxy}-3-methyl-butyrylamino)-propionyl]-hexahydro-pyridazine-3-carboxylic acid 2,2,2-trichloro-ethyl ester | ClC(COC(=O)[C@H]1NN(CCC1)C([C@H](C)NC([C@H](C(C)C)OC(C(\C=C\C1=CC=C2C=CC(=NC2=C1)[C@@H](C)NC(=O)OC(C)(C)C)(CF)CF)=O)=O)=O)(Cl)Cl | C37H48Cl3F2N5O8
